US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]morpholine
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid (40 mg, 0.1020 mmol), 4-dimethylaminopyridine (6.2 mg, 0.0508 mmol) and morpholine (18 mg, 0.2068 mmol) were dissolved in methylene chloride (5 ml), then WSC-HCl (59 mg, 0.3077 mmol) was added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (hexane:ethyl acetate=1:1) to give the title compound (13 mg, 0.0281 mmol, 28%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid | 0.1020 mmol, 40 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=CC=C1)C)=O | C23H20O6
reactant | morpholine | 0.2068 mmol, 18 mg | N1CCOCC1 | C4H9NO
reactant | WSC HCl | 0.3077 mmol, 59 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-dimethylaminopyridine | 0.0508 mmol, 6.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]morpholine | 0.0281 mmol, 13 mg, 28% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)C1=CC=CC=C1)C)=O | C27H27NO6
